* no_fill grounded drive N; diagnostic capacitor-network AC only
C3 0 P 4.7114200000000005e-18
C7 0 P 6.6403999999999999e-17
C10 0 N 1.7124800000000002e-15
C11 0 P 5.4831700000000005e-16
C13 0 P 1.6421100000000003e-16
C15 N P 4.9427100000000006e-16
C16 N 0 1.3825600000000001e-15
C17 P 0 8.3572800000000004e-16
VP P 0 DC 0 AC 0
VN N 0 DC 0 AC 1
.control
set numdgt=17
ac lin 1 1Meg 1Meg
let cp = -imag(i(VP))/(2*pi*1e6)
let cn = -imag(i(VN))/(2*pi*1e6)
print cp cn
quit
.endc
.end
