*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-09-22 15:26:40
*********************************************************

.SUBCKT sense_fill_clip
Cext_1 CTX_L126_0 CTX_L134_0 1.49152f
Cext_2 CTX_L126_0 FILL_L10_0 5.5222a
Cext_3 CTX_L126_0 FILL_L10_1 2.02686a
Cext_4 CTX_L126_0 FILL_L10_10 21.4465a
Cext_5 CTX_L126_0 FILL_L10_11 76.4667a
Cext_6 CTX_L126_0 FILL_L10_12 47.5419a
Cext_7 CTX_L126_0 FILL_L10_13 27.8269a
Cext_8 CTX_L126_0 FILL_L10_14 67.8188a
Cext_9 CTX_L126_0 FILL_L10_2 9.78265a
Cext_10 CTX_L126_0 FILL_L10_3 59.9331a
Cext_11 CTX_L126_0 FILL_L10_4 34.743a
Cext_12 CTX_L126_0 FILL_L10_5 82.0032a
Cext_13 CTX_L126_0 FILL_L10_6 48.3892a
Cext_14 CTX_L126_0 FILL_L10_7 26.3358a
Cext_15 CTX_L126_0 FILL_L10_8 80.8684a
Cext_16 CTX_L126_0 FILL_L10_9 41.5202a
Cext_17 CTX_L126_0 FILL_L30_0 3.38416a
Cext_18 CTX_L126_0 FILL_L30_1 41.4989a
Cext_19 CTX_L126_0 FILL_L30_10 153.361a
Cext_20 CTX_L126_0 FILL_L30_11 3.38416a
Cext_21 CTX_L126_0 FILL_L30_12 3.38416a
Cext_22 CTX_L126_0 FILL_L30_13 28.2162a
Cext_23 CTX_L126_0 FILL_L30_14 76.6804a
Cext_24 CTX_L126_0 FILL_L30_2 140.294a
Cext_25 CTX_L126_0 FILL_L30_3 3.38416a
Cext_26 CTX_L126_0 FILL_L30_4 3.38416a
Cext_27 CTX_L126_0 FILL_L30_5 56.4325a
Cext_28 CTX_L126_0 FILL_L30_6 153.361a
Cext_29 CTX_L126_0 FILL_L30_7 3.38416a
Cext_30 CTX_L126_0 FILL_L30_8 3.38416a
Cext_31 CTX_L126_0 FILL_L30_9 56.4325a
Cext_32 CTX_L126_0 FILL_L50_0 18.1845a
Cext_33 CTX_L126_0 FILL_L50_1 226.476a
Cext_34 CTX_L126_0 FILL_L50_10 126.062a
Cext_35 CTX_L126_0 FILL_L50_2 18.1845a
Cext_36 CTX_L126_0 FILL_L50_3 18.1845a
Cext_37 CTX_L126_0 FILL_L50_4 252.125a
Cext_38 CTX_L126_0 FILL_L50_5 18.1845a
Cext_39 CTX_L126_0 FILL_L50_6 18.1845a
Cext_40 CTX_L126_0 FILL_L50_7 252.125a
Cext_41 CTX_L126_0 FILL_L50_8 18.1845a
Cext_42 CTX_L126_0 FILL_L50_9 18.1845a
Cext_43 CTX_L126_0 FILL_L8_0 1.76093a
Cext_44 CTX_L126_0 FILL_L8_1 1.11312a
Cext_45 CTX_L126_0 FILL_L8_10 11.7742a
Cext_46 CTX_L126_0 FILL_L8_11 3.86303a
Cext_47 CTX_L126_0 FILL_L8_12 8.35138a
Cext_48 CTX_L126_0 FILL_L8_13 8.93787a
Cext_49 CTX_L126_0 FILL_L8_14 3.36398a
Cext_50 CTX_L126_0 FILL_L8_2 1.12693a
Cext_51 CTX_L126_0 FILL_L8_3 8.83012a
Cext_52 CTX_L126_0 FILL_L8_4 9.57358a
Cext_53 CTX_L126_0 FILL_L8_5 4.80485a
Cext_54 CTX_L126_0 FILL_L8_6 12.6238a
Cext_55 CTX_L126_0 FILL_L8_7 11.2967a
Cext_56 CTX_L126_0 FILL_L8_8 4.17697a
Cext_57 CTX_L126_0 FILL_L8_9 13.906a
Cext_58 CTX_L126_0 N 1.49725f
Cext_59 CTX_L126_0 P 548.317a
Cext_60 CTX_L126_0 VSUBS 2.28737f
Cext_61 CTX_L134_0 FILL_L10_11 34.8779a
Cext_62 CTX_L134_0 FILL_L10_14 31.3128a
Cext_63 CTX_L134_0 FILL_L10_5 10.3205a
Cext_64 CTX_L134_0 FILL_L10_8 34.432a
Cext_65 CTX_L134_0 FILL_L30_10 7.89683a
Cext_66 CTX_L134_0 FILL_L30_11 7.56647a
Cext_67 CTX_L134_0 FILL_L30_12 6.22591a
Cext_68 CTX_L134_0 FILL_L30_14 4.07602a
Cext_69 CTX_L134_0 FILL_L30_8 4.14992a
Cext_70 CTX_L134_0 FILL_L50_3 3.86115a
Cext_71 CTX_L134_0 FILL_L50_5 4.94017a
Cext_72 CTX_L134_0 FILL_L50_6 10.8573a
Cext_73 CTX_L134_0 FILL_L50_8 15.3357a
Cext_74 CTX_L134_0 FILL_L50_9 13.5879a
Cext_75 CTX_L134_0 FILL_L8_11 2.01884a
Cext_76 CTX_L134_0 FILL_L8_14 2.02131a
Cext_77 CTX_L134_0 P 24.7953a
Cext_78 CTX_L134_0 VSUBS 889.922a
Cext_79 FILL_L10_0 FILL_L10_1 13.9676a
Cext_80 FILL_L10_0 FILL_L10_3 69.8381a
Cext_81 FILL_L10_0 FILL_L30_1 132.599a
Cext_82 FILL_L10_0 FILL_L30_2 1.74747a
Cext_83 FILL_L10_0 FILL_L50_1 3.15897a
Cext_84 FILL_L10_0 FILL_L8_0 84.0312a
Cext_85 FILL_L10_0 N 2.87551a
Cext_86 FILL_L10_0 VSUBS 146.441a
Cext_87 FILL_L10_1 FILL_L10_2 13.9676a
Cext_88 FILL_L10_1 FILL_L10_4 97.7733a
Cext_89 FILL_L10_1 FILL_L30_2 222.081a
Cext_90 FILL_L10_1 FILL_L8_1 117.644a
Cext_91 FILL_L10_1 N 0.983248a
Cext_92 FILL_L10_1 P 1.62545a
Cext_93 FILL_L10_1 VSUBS 184.864a
Cext_94 FILL_L10_10 FILL_L10_11 97.7733a
Cext_95 FILL_L10_10 FILL_L10_13 97.7733a
Cext_96 FILL_L10_10 FILL_L10_7 97.7733a
Cext_97 FILL_L10_10 FILL_L10_9 97.7733a
Cext_98 FILL_L10_10 FILL_L30_10 926.954a
Cext_99 FILL_L10_10 FILL_L8_10 823.506a
Cext_100 FILL_L10_10 N 44.7744a
Cext_101 FILL_L10_10 P 11.3782a
Cext_102 FILL_L10_10 VSUBS 196.219a
Cext_103 FILL_L10_11 FILL_L10_14 83.8057a
Cext_104 FILL_L10_11 FILL_L10_8 83.8057a
Cext_105 FILL_L10_11 FILL_L30_10 60.4515a
Cext_106 FILL_L10_11 FILL_L30_11 120.314a
Cext_107 FILL_L10_11 FILL_L30_8 170.36a
Cext_108 FILL_L10_11 FILL_L50_6 44.8402a
Cext_109 FILL_L10_11 FILL_L50_8 32.7967a
Cext_110 FILL_L10_11 FILL_L8_11 705.862a
Cext_111 FILL_L10_11 P 78.4418a
Cext_112 FILL_L10_11 VSUBS 254.942a
Cext_113 FILL_L10_12 FILL_L10_13 83.8057a
Cext_114 FILL_L10_12 FILL_L10_9 69.8381a
Cext_115 FILL_L10_12 FILL_L30_13 370.994a
Cext_116 FILL_L10_12 FILL_L30_14 6.98989a
Cext_117 FILL_L10_12 FILL_L30_9 27.9484a
Cext_118 FILL_L10_12 FILL_L50_10 36.723a
Cext_119 FILL_L10_12 FILL_L50_7 17.4191a
Cext_120 FILL_L10_12 FILL_L8_12 504.187a
Cext_121 FILL_L10_12 N 27.4672a
Cext_122 FILL_L10_12 VSUBS 268.475a
Cext_123 FILL_L10_13 FILL_L10_14 83.8057a
Cext_124 FILL_L10_13 FILL_L30_10 48.9096a
Cext_125 FILL_L10_13 FILL_L30_14 609.372a
Cext_126 FILL_L10_13 FILL_L8_13 705.862a
Cext_127 FILL_L10_13 N 89.1481a
Cext_128 FILL_L10_13 P 21.2233a
Cext_129 FILL_L10_13 VSUBS 254.942a
Cext_130 FILL_L10_14 FILL_L30_11 13.9742a
Cext_131 FILL_L10_14 FILL_L30_12 192.071a
Cext_132 FILL_L10_14 FILL_L30_14 33.7193a
Cext_133 FILL_L10_14 FILL_L50_8 8.70954a
Cext_134 FILL_L10_14 FILL_L50_9 48.1743a
Cext_135 FILL_L10_14 FILL_L8_14 605.025a
Cext_136 FILL_L10_14 P 70.8867a
Cext_137 FILL_L10_14 VSUBS 292.882a
Cext_138 FILL_L10_2 FILL_L10_5 83.8057a
Cext_139 FILL_L10_2 FILL_L30_0 79.6023a
Cext_140 FILL_L10_2 FILL_L30_2 6.98709a
Cext_141 FILL_L10_2 FILL_L50_0 12.0436a
Cext_142 FILL_L10_2 FILL_L8_2 100.837a
Cext_143 FILL_L10_2 P 7.55506a
Cext_144 FILL_L10_2 VSUBS 170.848a
Cext_145 FILL_L10_3 FILL_L10_4 97.7733a
Cext_146 FILL_L10_3 FILL_L10_6 69.8381a
Cext_147 FILL_L10_3 FILL_L30_1 438.46a
Cext_148 FILL_L10_3 FILL_L30_2 6.98989a
Cext_149 FILL_L10_3 FILL_L30_5 67.6512a
Cext_150 FILL_L10_3 FILL_L50_1 46.3605a
Cext_151 FILL_L10_3 FILL_L50_4 28.8703a
Cext_152 FILL_L10_3 FILL_L8_3 588.219a
Cext_153 FILL_L10_3 N 35.4497a
Cext_154 FILL_L10_3 VSUBS 240.926a
Cext_155 FILL_L10_4 FILL_L10_5 97.7733a
Cext_156 FILL_L10_4 FILL_L10_7 97.7733a
Cext_157 FILL_L10_4 FILL_L30_2 727.438a
Cext_158 FILL_L10_4 FILL_L30_6 118.39a
Cext_159 FILL_L10_4 FILL_L8_4 823.506a
Cext_160 FILL_L10_4 N 115.514a
Cext_161 FILL_L10_4 P 28.5841a
Cext_162 FILL_L10_4 VSUBS 196.219a
Cext_163 FILL_L10_5 FILL_L10_8 83.8057a
Cext_164 FILL_L10_5 FILL_L30_0 13.9742a
Cext_165 FILL_L10_5 FILL_L30_2 33.7193a
Cext_166 FILL_L10_5 FILL_L30_3 198.076a
Cext_167 FILL_L10_5 FILL_L30_4 33.8256a
Cext_168 FILL_L10_5 FILL_L50_0 8.70954a
Cext_169 FILL_L10_5 FILL_L50_2 52.993a
Cext_170 FILL_L10_5 FILL_L50_3 14.4352a
Cext_171 FILL_L10_5 FILL_L8_5 705.862a
Cext_172 FILL_L10_5 P 84.8308a
Cext_173 FILL_L10_5 VSUBS 254.942a
Cext_174 FILL_L10_6 FILL_L10_7 97.7733a
Cext_175 FILL_L10_6 FILL_L10_9 69.8381a
Cext_176 FILL_L10_6 FILL_L30_5 549.036a
Cext_177 FILL_L10_6 FILL_L30_6 10.4848a
Cext_178 FILL_L10_6 FILL_L30_9 6.98989a
Cext_179 FILL_L10_6 FILL_L50_4 31.5897a
Cext_180 FILL_L10_6 FILL_L50_7 7.7816a
Cext_181 FILL_L10_6 FILL_L8_6 588.219a
Cext_182 FILL_L10_6 N 25.2356a
Cext_183 FILL_L10_6 VSUBS 240.926a
Cext_184 FILL_L10_7 FILL_L10_8 97.7733a
Cext_185 FILL_L10_7 FILL_L30_10 12.2323a
Cext_186 FILL_L10_7 FILL_L30_6 901.01a
Cext_187 FILL_L10_7 FILL_L8_7 823.506a
Cext_188 FILL_L10_7 N 70.1571a
Cext_189 FILL_L10_7 P 17.1135a
Cext_190 FILL_L10_7 VSUBS 196.219a
Cext_191 FILL_L10_8 FILL_L30_4 63.9654a
Cext_192 FILL_L10_8 FILL_L30_6 53.4644a
Cext_193 FILL_L10_8 FILL_L30_7 190.195a
Cext_194 FILL_L10_8 FILL_L30_8 3.49494a
Cext_195 FILL_L10_8 FILL_L50_3 20.7531a
Cext_196 FILL_L10_8 FILL_L50_5 51.1582a
Cext_197 FILL_L10_8 FILL_L50_6 3.8908a
Cext_198 FILL_L10_8 FILL_L8_8 705.862a
Cext_199 FILL_L10_8 P 84.8308a
Cext_200 FILL_L10_8 VSUBS 254.942a
Cext_201 FILL_L10_9 FILL_L30_10 12.2323a
Cext_202 FILL_L10_9 FILL_L30_9 569.556a
Cext_203 FILL_L10_9 FILL_L50_7 22.1128a
Cext_204 FILL_L10_9 FILL_L8_9 588.219a
Cext_205 FILL_L10_9 N 20.1286a
Cext_206 FILL_L10_9 VSUBS 240.926a
Cext_207 FILL_L30_0 FILL_L30_2 19.2731a
Cext_208 FILL_L30_0 FILL_L30_3 19.2731a
Cext_209 FILL_L30_0 FILL_L50_0 67.225a
Cext_210 FILL_L30_0 FILL_L8_2 3.01665a
Cext_211 FILL_L30_0 FILL_L8_5 2.30082a
Cext_212 FILL_L30_0 P 3.65148a
Cext_213 FILL_L30_0 VSUBS 81.5656a
Cext_214 FILL_L30_1 FILL_L30_2 77.0926a
Cext_215 FILL_L30_1 FILL_L30_5 38.5463a
Cext_216 FILL_L30_1 FILL_L50_1 537.8a
Cext_217 FILL_L30_1 FILL_L8_0 16.1026a
Cext_218 FILL_L30_1 FILL_L8_3 16.1026a
Cext_219 FILL_L30_1 N 4.96481a
Cext_220 FILL_L30_1 VSUBS 272.821a
Cext_221 FILL_L30_10 FILL_L30_11 19.2731a
Cext_222 FILL_L30_10 FILL_L30_14 77.0926a
Cext_223 FILL_L30_10 FILL_L30_6 77.0926a
Cext_224 FILL_L30_10 FILL_L30_8 19.2731a
Cext_225 FILL_L30_10 FILL_L30_9 77.0926a
Cext_226 FILL_L30_10 FILL_L8_10 21.1165a
Cext_227 FILL_L30_10 FILL_L8_11 8.05287a
Cext_228 FILL_L30_10 FILL_L8_13 8.05287a
Cext_229 FILL_L30_10 N 944.845a
Cext_230 FILL_L30_10 P 169.77a
Cext_231 FILL_L30_10 VSUBS 206.335a
Cext_232 FILL_L30_11 FILL_L30_12 19.2731a
Cext_233 FILL_L30_11 FILL_L30_8 19.2731a
Cext_234 FILL_L30_11 FILL_L50_8 67.225a
Cext_235 FILL_L30_11 FILL_L8_11 3.01665a
Cext_236 FILL_L30_11 FILL_L8_14 2.30082a
Cext_237 FILL_L30_11 P 3.65148a
Cext_238 FILL_L30_11 VSUBS 50.2136a
Cext_239 FILL_L30_12 FILL_L30_14 19.2731a
Cext_240 FILL_L30_12 FILL_L50_9 67.225a
Cext_241 FILL_L30_12 P 3.65148a
Cext_242 FILL_L30_12 VSUBS 61.3563a
Cext_243 FILL_L30_13 FILL_L30_14 38.5463a
Cext_244 FILL_L30_13 FILL_L30_9 38.5463a
Cext_245 FILL_L30_13 FILL_L50_10 268.9a
Cext_246 FILL_L30_13 N 2.4824a
Cext_247 FILL_L30_13 VSUBS 156.452a
Cext_248 FILL_L30_14 FILL_L8_13 6.0333a
Cext_249 FILL_L30_14 FILL_L8_14 4.60164a
Cext_250 FILL_L30_14 N 472.423a
Cext_251 FILL_L30_14 P 84.8848a
Cext_252 FILL_L30_14 VSUBS 207.923a
Cext_253 FILL_L30_2 FILL_L30_3 19.2731a
Cext_254 FILL_L30_2 FILL_L30_6 77.0926a
Cext_255 FILL_L30_2 FILL_L8_1 29.6879a
Cext_256 FILL_L30_2 FILL_L8_2 1.15041a
Cext_257 FILL_L30_2 FILL_L8_4 34.2129a
Cext_258 FILL_L30_2 FILL_L8_5 4.60164a
Cext_259 FILL_L30_2 N 870.844a
Cext_260 FILL_L30_2 P 169.77a
Cext_261 FILL_L30_2 VSUBS 337.248a
Cext_262 FILL_L30_3 FILL_L30_4 19.2731a
Cext_263 FILL_L30_3 FILL_L50_2 67.225a
Cext_264 FILL_L30_3 P 3.65148a
Cext_265 FILL_L30_3 VSUBS 39.7013a
Cext_266 FILL_L30_4 FILL_L30_6 19.2731a
Cext_267 FILL_L30_4 FILL_L30_7 19.2731a
Cext_268 FILL_L30_4 FILL_L50_3 67.225a
Cext_269 FILL_L30_4 FILL_L8_5 5.03466a
Cext_270 FILL_L30_4 FILL_L8_8 5.75048a
Cext_271 FILL_L30_4 P 3.65148a
Cext_272 FILL_L30_4 VSUBS 59.6427a
Cext_273 FILL_L30_5 FILL_L30_6 77.0926a
Cext_274 FILL_L30_5 FILL_L30_9 38.5463a
Cext_275 FILL_L30_5 FILL_L50_4 537.8a
Cext_276 FILL_L30_5 FILL_L8_3 10.0693a
Cext_277 FILL_L30_5 FILL_L8_6 11.501a
Cext_278 FILL_L30_5 N 4.96481a
Cext_279 FILL_L30_5 VSUBS 216.269a
Cext_280 FILL_L30_6 FILL_L30_7 19.2731a
Cext_281 FILL_L30_6 FILL_L8_4 17.6213a
Cext_282 FILL_L30_6 FILL_L8_7 29.1766a
Cext_283 FILL_L30_6 FILL_L8_8 6.90246a
Cext_284 FILL_L30_6 N 944.845a
Cext_285 FILL_L30_6 P 169.77a
Cext_286 FILL_L30_6 VSUBS 218.402a
Cext_287 FILL_L30_7 FILL_L30_8 19.2731a
Cext_288 FILL_L30_7 FILL_L50_5 67.225a
Cext_289 FILL_L30_7 P 3.65148a
Cext_290 FILL_L30_7 VSUBS 40.1076a
Cext_291 FILL_L30_8 FILL_L50_6 67.225a
Cext_292 FILL_L30_8 P 3.65148a
Cext_293 FILL_L30_8 VSUBS 40.6091a
Cext_294 FILL_L30_9 FILL_L50_7 537.8a
Cext_295 FILL_L30_9 FILL_L8_12 4.60164a
Cext_296 FILL_L30_9 FILL_L8_9 6.0333a
Cext_297 FILL_L30_9 N 4.96481a
Cext_298 FILL_L30_9 VSUBS 210.236a
Cext_299 FILL_L50_0 FILL_L50_2 24.7136a
Cext_300 FILL_L50_0 P 39.4944a
Cext_301 FILL_L50_0 VSUBS 64.8292a
Cext_302 FILL_L50_1 FILL_L50_4 49.4271a
Cext_303 FILL_L50_1 N 112.944a
Cext_304 FILL_L50_1 VSUBS 209.413a
Cext_305 FILL_L50_10 FILL_L50_7 49.4271a
Cext_306 FILL_L50_10 N 56.4721a
Cext_307 FILL_L50_10 VSUBS 139.384a
Cext_308 FILL_L50_2 FILL_L50_3 24.7136a
Cext_309 FILL_L50_2 P 39.4944a
Cext_310 FILL_L50_2 VSUBS 32.5359a
Cext_311 FILL_L50_3 FILL_L50_5 24.7136a
Cext_312 FILL_L50_3 P 39.4944a
Cext_313 FILL_L50_3 VSUBS 38.4467a
Cext_314 FILL_L50_4 FILL_L50_7 49.4271a
Cext_315 FILL_L50_4 N 112.944a
Cext_316 FILL_L50_4 VSUBS 165.769a
Cext_317 FILL_L50_5 FILL_L50_6 24.7136a
Cext_318 FILL_L50_5 P 39.4944a
Cext_319 FILL_L50_5 VSUBS 32.7292a
Cext_320 FILL_L50_6 FILL_L50_8 24.7136a
Cext_321 FILL_L50_6 P 39.4944a
Cext_322 FILL_L50_6 VSUBS 32.9648a
Cext_323 FILL_L50_7 N 112.944a
Cext_324 FILL_L50_7 VSUBS 170.206a
Cext_325 FILL_L50_8 FILL_L50_9 24.7136a
Cext_326 FILL_L50_8 P 39.4944a
Cext_327 FILL_L50_8 VSUBS 35.7462a
Cext_328 FILL_L50_9 P 39.4944a
Cext_329 FILL_L50_9 VSUBS 53.7989a
Cext_330 FILL_L8_0 FILL_L8_1 9.95669a
Cext_331 FILL_L8_0 FILL_L8_3 49.7834a
Cext_332 FILL_L8_0 N 0.327929a
Cext_333 FILL_L8_0 VSUBS 231.52a
Cext_334 FILL_L8_1 FILL_L8_2 9.95669a
Cext_335 FILL_L8_1 FILL_L8_4 69.6968a
Cext_336 FILL_L8_1 N 0.375728a
Cext_337 FILL_L8_1 P 0.697484a
Cext_338 FILL_L8_1 VSUBS 303.317a
Cext_339 FILL_L8_10 FILL_L8_11 69.6968a
Cext_340 FILL_L8_10 FILL_L8_13 69.6968a
Cext_341 FILL_L8_10 FILL_L8_7 69.6968a
Cext_342 FILL_L8_10 FILL_L8_9 69.6968a
Cext_343 FILL_L8_10 N 18.5099a
Cext_344 FILL_L8_10 P 4.88239a
Cext_345 FILL_L8_10 VSUBS 750.914a
Cext_346 FILL_L8_11 FILL_L8_14 59.7401a
Cext_347 FILL_L8_11 FILL_L8_8 59.7401a
Cext_348 FILL_L8_11 P 5.1604a
Cext_349 FILL_L8_11 VSUBS 724.692a
Cext_350 FILL_L8_12 FILL_L8_13 59.7401a
Cext_351 FILL_L8_12 FILL_L8_9 49.7834a
Cext_352 FILL_L8_12 N 1.96758a
Cext_353 FILL_L8_12 VSUBS 606.822a
Cext_354 FILL_L8_13 FILL_L8_14 59.7401a
Cext_355 FILL_L8_13 N 8.86018a
Cext_356 FILL_L8_13 P 4.1849a
Cext_357 FILL_L8_13 VSUBS 724.692a
Cext_358 FILL_L8_14 P 4.4232a
Cext_359 FILL_L8_14 VSUBS 690.637a
Cext_360 FILL_L8_2 FILL_L8_5 59.7401a
Cext_361 FILL_L8_2 P 0.7372a
Cext_362 FILL_L8_2 VSUBS 271.565a
Cext_363 FILL_L8_3 FILL_L8_4 69.6968a
Cext_364 FILL_L8_3 FILL_L8_6 49.7834a
Cext_365 FILL_L8_3 N 2.2955a
Cext_366 FILL_L8_3 VSUBS 640.417a
Cext_367 FILL_L8_4 FILL_L8_5 69.6968a
Cext_368 FILL_L8_4 FILL_L8_7 69.6968a
Cext_369 FILL_L8_4 N 5.99538a
Cext_370 FILL_L8_4 P 4.88239a
Cext_371 FILL_L8_4 VSUBS 750.914a
Cext_372 FILL_L8_5 FILL_L8_8 59.7401a
Cext_373 FILL_L8_5 P 5.1604a
Cext_374 FILL_L8_5 VSUBS 724.692a
Cext_375 FILL_L8_6 FILL_L8_7 69.6968a
Cext_376 FILL_L8_6 FILL_L8_9 49.7834a
Cext_377 FILL_L8_6 N 2.2955a
Cext_378 FILL_L8_6 VSUBS 640.417a
Cext_379 FILL_L8_7 FILL_L8_8 69.6968a
Cext_380 FILL_L8_7 N 15.2694a
Cext_381 FILL_L8_7 P 4.88239a
Cext_382 FILL_L8_7 VSUBS 750.914a
Cext_383 FILL_L8_8 P 5.1604a
Cext_384 FILL_L8_8 VSUBS 724.692a
Cext_385 FILL_L8_9 N 2.2955a
Cext_386 FILL_L8_9 VSUBS 640.417a
Cext_387 N P 494.271a
Cext_388 N VSUBS 551.663a
Cext_389 P VSUBS 447.736a
.ENDS sense_fill_clip
